* Z:\home\art\school\ece2001\reports\report6\circuit2.asc
* Generated by LTspice 24.1.5 for Windows.
V1 N001 0 AC 5
R1 N002 N001 2k
C2 N002 0 15n
.ac dec 100 1 10Meg
;.tran 0
.backanno
.end
